US06127354
2-(((9-Fluorenyl)methoxycarbonyl)amino)acetic acid (2.49 g, 2.79 mmol) was suspended in dichloromethane (40 ml). The suspension was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (802 mg, 4.19 mmol) was added. The reaction mixture was stirred for 30 min at 0° C. A solution of N-(2-(2-aminophenyl)ethyl)-N-methylcarbamic acid tert-butyl ester (698 mg, 2.79 mmol) in dichloromethane (15 ml) was added. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with dichloromethane (100 ml) and washed with brine (100 ml). The aqueous solution was extracted with dichloromethane (2×30 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (80 g), using ethyl acetate/heptane (1:1) as eluent, to give 1.412 g of ({2-[2-(N-(tert-butoxycarbonyl)-N-methylamino)ethyl]phenylcarbamoyl}methyl)carbamic acid ((9-fluorenyl)methyl) ester.

reactant | 2-(((9-Fluorenyl)methoxycarbonyl)amino)acetic acid | 2.79 mmol, 2.49 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCC(=O)O | C17H15NO4
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 4.19 mmol, 802 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-(2-(2-aminophenyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 2.79 mmol, 698 mg | C(C)(C)(C)OC(N(C)CCC1=C(C=CC=C1)N)=O | C14H22N2O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | ({2-[2-(N-(tert-butoxycarbonyl)-N-methylamino)ethyl]phenylcarbamoyl}methyl)carbamic acid ((9-fluorenyl)methyl) ester | 1.412 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NCC(NC1=C(C=CC=C1)CCN(C)C(=O)OC(C)(C)C)=O)=O | C31H35N3O5
